* C:\Users\victo\Desktop\GA-with-LTSpice-Tutorial\Tutorial\Sims\sims_comparator\comparator_99.asc
M1 Vout N001 0 0 NMOS l={L1} w={W1} ad={W1*L1} as={W1*L1} pd={2*W1+2*L1} ps={2*W1+2*L1} m=1
M2 Vdd Vin Vout Vdd PMOS l={L2} w={W2} ad={W2*L2} as={W2*L2} pd={2*W1+2*L1} ps={2*W1+2*L1} m=1
V1 Vdd 0 1.8
V2 N001 0 {Vcomp}
V3 Vin 0
.model NMOS NMOS
.model PMOS PMOS
.lib D:\Documents\LTspiceXVII\lib\cmp\standard.mos
.param W1=2.9u
.param W2=2.6u
.param Vcomp=648.0m
.param L1=1.7u
.param L2=2.1u
.dc V3 0 1.8 0.01
* All parameters that will be optimized\nshould be listed in tables\nwith arbitrary values.
.backanno
.end
